US08404859B2
To a solution of 2-tert-Butoxycarbonylamino-4-trifluoromethyl-thiazole-5-carboxylic acid (6.23 g, 19.96) in anhydrous DMF (100 mL) was added HBTU (8.29 g, 24.97 mmol), HOBt (3.39 g, 19.96 mmol), H-DAP(BOC)-OME HCL (8.08 g, 31.02 mmol) and triethylamine (11.97 mL, 85.94 mmol). The reaction mixture was stirred at 25′C for 1 h and concentrated under reduced pressure to remove most of the DMF. The residue was diluted with ethyl acetate (200 mL), washed with 1:1 water/brine (40 mL), aqueous 1N HCl (40 mL), brine (40 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The resulting crude compound was purified by flash chromatography (40% to 100% EtOAc in hexanes) to give (S)-3-tert-Butoxycarbonylamino-2-[(2-tert-butoxycarbonylamino-4-trifluoromethyl-thiazole-5-carbonyl)-amino]-propionic acid methyl ester (8 g, 78%) as a pale yellow foam. MS m/e 513.5 (M+H+).

reactant | 2-tert-Butoxycarbonylamino-4-trifluoromethyl-thiazole-5-carboxylic acid | 6.23 g | C(C)(C)(C)OC(=O)NC=1SC(=C(N1)C(F)(F)F)C(=O)O | C10H11F3N2O4S
reactant | HBTU | 24.97 mmol, 8.29 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 19.96 mmol, 3.39 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H-DAP(BOC)-OME HCL | 31.02 mmol, 8.08 g | CC(C)(C)OC(=O)NC[C@@H](C(=O)OC)N.Cl
reactant | triethylamine | 85.94 mmol, 11.97 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (S)-3-tert-Butoxycarbonylamino-2-[(2-tert-butoxycarbonylamino-4-trifluoromethyl-thiazole-5-carbonyl)-amino]-propionic acid methyl ester | 8 g, 78% | COC([C@H](CNC(=O)OC(C)(C)C)NC(=O)C1=C(N=C(S1)NC(=O)OC(C)(C)C)C(F)(F)F)=O | C19H27F3N4O7S
